US08048909B2
tert-Butyl methyl[(1-{[3-(methylsulfonyl)phenyl]sulfonyl}-5-(3-thienyl)-1H-pyrrol-3-yl)methyl]carbamate
Using tert-butyl [(5-bromo-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrol-3-yl)methyl]methylcarbamate (437 mg), 3-thiopheneboronic acid (223 mg), sodium carbonate (275 mg) and tetrakis(triphenylphosphine)palladium (50.8 mg), a procedure as in Reference Example 267 was performed to give the title compound as a white solid (yield 305 mg, 69%).

reactant | tert-butyl [(5-bromo-1-{[3-(methylsulfonyl)phenyl]sulfonyl}-1H-pyrrol-3-yl)methyl]methylcarbamate | 437 mg | BrC1=CC(=CN1S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C)CN(C(OC(C)(C)C)=O)C | C18H23BrN2O6S2
reactant | 3-thiopheneboronic acid | 223 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 275 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 50.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl methyl[(1-{[3-(methylsulfonyl)phenyl]sulfonyl}-5-(3-thienyl)-1H-pyrrol-3-yl)methyl]carbamate | yield 305 mg, 69% | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CSC=C1)S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C | C22H26N2O6S3
